US08563577B2
Preparation of (R)-quinuclidin-3-yl 2-((4-fluorophenyl)(methyl)-amino)-2-phenylacetate (I7)
PS-DCC (1.02 g, 1.35 mmol, loading: 1.33 mmol/g) was suspended in dry THF (13.5 ml). HOBT (0.21 g, 1.35 mmol), 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetic acid hydrochloride (I6) (0.20 g, 0.68 mmol), and (R)-quinuclidin-3-ol (0.26 g, 2.03 mmol) were added. The mixture was shaken at RT overnight. PS-DCC was removed by filtration, washed with EtOAc and THF. The solution was evaporated, and the residue was partitioned between EtOAc and water. The organic phase was washed with saturated NaHCO3, dried with Na2SO4, and evaporated. The crude was purified by flash chromatography (DCM/MeOH=95/5) to afford the title compound (209 mg, 84% yield, mixture of diastereomers).

reactant | DCC | 1.35 mmol, 1.02 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.35 mmol, 0.21 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetic acid hydrochloride | 0.68 mmol, 0.20 g | Cl.FC1=CC=C(C=C1)N(C(C(=O)O)C1=CC=CC=C1)C
reactant | (R)-quinuclidin-3-ol | 2.03 mmol, 0.26 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 13.5 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-((4-fluorophenyl)(methyl)-amino)-2-phenylacetate | 209 mg, 84% yield | FC1=CC=C(C=C1)N(C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)C | C22H25FN2O2
